US04728735
7-Hydroxydibenzo[b,f][1,4]thiazepin-5,5-dioxide
A mixture of 10.11-dihydro-7-hydroxydibenzo [b,f][1,4]thiazepin (2.2 g,10 mmoles) and m-chloroperbenzoic acid (3.4 g,20 mmoles) in methylene chloride (250 ml) was stirred at 0° C. for 1 hour. The reaction mixture was treated with 4 g of calcium hydroxide for 15 minutes and was then filtered. The filtrate was chromatographed on silica gel, eluting with 5% methanol in chloroform, to yield the title compound, m.p. 202° (dec.).

reactant | 10.11-dihydro-7-hydroxydibenzo [b,f][1,4]thiazepin | 10 mmoles, 2.2 g | OC=1C=CC2=C(SC3=C(CN2)C=CC=C3)C1 | C13H11NOS
reactant | m-chloroperbenzoic acid | 20 mmoles, 3.4 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | calcium hydroxide | 4 g | [OH-].[Ca+2].[OH-]
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
product | 7-Hydroxydibenzo[b,f][1,4]thiazepin-5,5-dioxide | OC=1C=CC2=C(S(C3=C(C=N2)C=CC=C3)(=O)=O)C1 | C13H9NO3S
